US05380722
1.6 g of 2-[(2-oxiranyl)-methoxy]-N-[(1H-indol-4-yl)]-benzamide in 36 ml of ethanol as refluxed for 4 hours with 1.82 ml of (methoxyphenyl)piperazine and the solvent was eliminated under reduced pressure. The residue was purified by chromatography over silica (eluent:chloroform--ethyl acetate--triethylamine, 6-3-1) to obtain 1.85 g of 2-[3-[4-(2-methoxyphenyl)-1-piperazinyl]-2-hydroxypropoxy]-N-(1H-indol-4-yl)-benzamide

reactant | 2-[(2-oxiranyl)-methoxy]-N-[(1H-indol-4-yl)]-benzamide | 1.6 g | O1C(C1)COC1=C(C(=O)NC2=C3C=CNC3=CC=C2)C=CC=C1 | C18H16N2O3
reactant | (methoxyphenyl)piperazine | 1.82 ml | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | ethanol | 36 ml | C(C)O | C2H6O
product | 2-[3-[4-(2-methoxyphenyl)-1-piperazinyl]-2-hydroxypropoxy]-N-(1H-indol-4-yl)-benzamide | 1.85 g | COC1=C(C=CC=C1)N1CCN(CC1)CC(COC1=C(C(=O)NC2=C3C=CNC3=CC=C2)C=CC=C1)O | C29H32N4O4
